US08039472B2
To a mixture of 1-(1-phenyl-ethyl)-piperidin-4-one (10.9 g, 53.6 mmol), ammonium chloride (4.3 g, 80.4 mmol) and 30% aqueous ammonia solution (30 ml) in water (30 ml) at room temperature is added sodium cyanide (4.0 g, 81.6 mmol) portion wise. The reaction mixture is stirred at room temperature for 18 hours, then diluted with water and extracted with DCM. The organic phase is washed with brine, dried over Na2SO4, filtered and concentrated in vacuo to obtain 4-Amino-1-(1-phenyl-ethyl)-piperidine-4-carbonitrile as a brown oil; [M+H]+ 230.

reactant | 1-(1-phenyl-ethyl)-piperidin-4-one | 53.6 mmol, 10.9 g | C1(=CC=CC=C1)C(C)N1CCC(CC1)=O | C13H17NO
reactant | ammonium chloride | 80.4 mmol, 4.3 g | [Cl-].[NH4+]
reactant | ammonia | 30 ml | N | H3N
reactant | sodium cyanide | 81.6 mmol, 4.0 g | [C-]#N.[Na+]
solvent | water | 30 ml | O | H2O
product | 4-Amino-1-(1-phenyl-ethyl)-piperidine-4-carbonitrile | NC1(CCN(CC1)C(C)C1=CC=CC=C1)C#N | C14H19N3
